US04382958
2-Hydroxy-2-(3-fluoro-4-methoxyphenyl)-ethanamine
To a solution of 3-fluoro-4-methoxybenzaldehyde (5.0 g) in dry ether (100 ml) containing a catalytic amount of zinc iodide was added dropwise a solution of trimethylsilyl cyanide (5 ml) in dry ether. After stirring at room temperature overnight the ether solution was added to an ice-cooled suspension of lithium aluminium hydride (4.0 g) in dry ether (100 ml) under nitrogen. On completion of this addition this mixture was stirred at room temperature for 30 minutes and then boiled under reflux for 1 hour. After boiling in ice this mixture was treated with water (4 ml), 2 N sodium hydroxide solution (4 ml) and water (12 ml) and this resulting suspension was filtered and dried (MgSO4). Evaporation of the solvent gave a light green oil (3.9 g) which was used without further purification.

reactant | 3-fluoro-4-methoxybenzaldehyde | 5.0 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | trimethylsilyl cyanide | 5 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminium hydride | 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 N, 4 ml | [OH-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
catalyst | zinc iodide | [I-].[Zn+2].[I-]
solvent | water | 12 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 2-Hydroxy-2-(3-fluoro-4-methoxyphenyl)-ethanamine | 3.9 g | OC(CN)C1=CC(=C(C=C1)OC)F | C9H12FNO2
